US06165944
9.80 g (75 mmol) of chlorocarbonylsulfenyl chloride were added dropwise to a solution of 4.37 g (15 mmol) of methyl 3-aminocarbonyl-2-chloro-4-methylsulfonylbenzoate in 150 ml of dry toluene. The mixture was stirred under reflux for 48 hours, and the solvent was then removed under reduced pressure and the residue was chromatographed over silica gel (eluent: ethyl acetate/cyclohexane=1/1). 3.70 g (70% of theory) of methyl 2-chloro-3-(1,3,4-oxathiazolin-2-on-5-yl)-4-methylsulfonylbenzoate were obtained.

reactant | chlorocarbonylsulfenyl chloride | 75 mmol, 9.80 g | ClC(=O)SCl | CCl2OS
reactant | methyl 3-aminocarbonyl-2-chloro-4-methylsulfonylbenzoate | 15 mmol, 4.37 g | NC(=O)C=1C(=C(C(=O)OC)C=CC1S(=O)(=O)C)Cl | C10H10ClNO5S
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 2-chloro-3-(1,3,4-oxathiazolin-2-on-5-yl)-4-methylsulfonylbenzoate | 3.70 g, 70% | ClC1=C(C(=O)OC)C=CC(=C1C1=NSC(O1)=O)S(=O)(=O)C | C11H8ClNO6S2
